US07816361B2
Step 1: Preparation of 4-(N′-tert-Butoxycarbonyl-hydrazino)-benzoic acid
To a deep red solution of p-hydrazinobenzoic acid (32.86 mmol, 5.00 g) in 2M NaOH (100 ml) and THF (70 ml) was added di-tertbutyl dicarbonate (2.0 eq, 65.72 mmol, 14.34 g). This was stirred at rt over a weekend. Another aliquot of di-tertbutyl dicarbonate (3.5 g) was added to the reaction mixture, and this stirred at room temp for a further 24 hours. A further 0.5 eq p-hydrazinobenzoic acid added to the reaction mixture. This was then stirred for a further 24 hours. 10% citric acid solution was added until a pH of 4 was obtained. The product was then extracted with ethyl acetate, the organics washed with brine, and then dried over Na2SO4. Concentration in vacuo afforded a pale yellow oil, containing residual tert-BuOH. Hexane was added to the mixture. Precipitation was observed and the solids were collected by filtration, washed with hexane and dried under vacuum at 35° C. An orange powder was obtained (8.40 g).

reactant | p-hydrazinobenzoic acid | 32.86 mmol, 5.00 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | di-tertbutyl dicarbonate | 65.72 mmol, 14.34 g, 2.0 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tertbutyl dicarbonate | 3.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | p-hydrazinobenzoic acid | 0.5 eq | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | tert-BuOH | C(C)(C)(C)O | C4H10O
solvent | NaOH | 2M, 100 ml | [OH-].[Na+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | Hexane | CCCCCC | C6H14
product | 4-(N′-tert-Butoxycarbonyl-hydrazino)-benzoic acid | C(C)(C)(C)OC(=O)NNC1=CC=C(C(=O)O)C=C1 | C12H16N2O4
